US03933799
17-Acetoxy-11β-chloro-21-isobutyryloxy-16β-methylpregna-1,4-diene-3,20-dione
A solution of 17-acetoxy-11β-chloro-21-hydroxy-16β-methylpregna-1,4-diene-3,20-dione (70 mg.) in pyridine (1 ml) was treated with isobutyric anhydride (0.3 ml.) at room temperature. After 3 hours, a little water was added and the solution was then diluted with dilute hydrochloric acid. The solid was collected and recrystallized from methanol to give the title compound, m.p. 193°-194° (K), [α]D + 104.3° (c 0.6 chloroform) λmax 240 nm (ε 16,020) (Found: C, 66.55; H, 7.3; Cl, 7.0. C28H37Cl O6 requires C, 66.6; H, 7.4; Cl, 7.0%).

reactant | 17-acetoxy-11β-chloro-21-hydroxy-16β-methylpregna-1,4-diene-3,20-dione | 70 mg | C(C)(=O)O[C@]1(C(CO)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C | C24H31ClO5
reactant | isobutyric anhydride | 0.3 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | water | O | H2O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | Cl | ClH
product | 17-Acetoxy-11β-chloro-21-isobutyryloxy-16β-methylpregna-1,4-diene-3,20-dione | C(C)(=O)O[C@]1(C(COC(C(C)C)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C | C28H37ClO6
